US07244725B2
A.14. (4E)-6-ethyl-1-methyl-2,3-dihydroquinolin-4(1H)-one oxime
To a solution of 6-ethyl-1-methyl-2,3-dihydroquinolin-4(1H)-one (0.32 g) in ethanol (25 mL) were added pyridine (0.53 g) and hydroxylamine hydrochloride (0.59 g). The mixture was heated to 90° C. for two hours with a reflux condenser attatched. The mixture was cooled to room temperature, and the solvent was stripped under reduced pressure. The residue was portioned between water and dichloromethane and the organics were extracted three times. The combined organics were washed once with brine, dried with sodium sulfate, filtered, and concentrated. 0.34 g of the title product were recovered. (98% yield). MS (ESI+) for C12H16N2O m/z 205.02 (M+H)+.

reactant | 6-ethyl-1-methyl-2,3-dihydroquinolin-4(1H)-one | 0.32 g | C(C)C=1C=C2C(CCN(C2=CC1)C)=O | C12H15NO
reactant | pyridine | 0.53 g | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.59 g | Cl.NO
reactant | water | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4E)-6-ethyl-1-methyl-2,3-dihydroquinolin-4(1H)-one oxime | 98% yield | C(C)C=1C=C2/C(/CCN(C2=CC1)C)=N/O | C12H16N2O
